US06380218B1
2-(Pyridin-3-ylmethoxy)-nicotinic acid ethyl ester
To a solution of Pyridin-3-yl-methanol (0.59 grams, 5.4 mmole) in dimethylformamide (20 ml) sodium hydride (0.259 grams, 6.5 mmole) was added and stirred for 30 minutes. 2-Chloro-nicotinic acid ethyl ester (1.0 grams, 5.4 mmole) was added via syringe and stirred at room temperature over night. The mixture was diluted with water (150 ml) and extracted by diethyl ether and ethyl acetate. The combined extracts were washed with 1N NaOH, water and brine, dried over Na2SO4, filtered, and concentrated to an oil (1.3 g). MW 258.28; MS (m/e) 259 (M++1).

reactant | Pyridin-3-yl-methanol | 5.4 mmole, 0.59 grams | N1=CC(=CC=C1)CO | C6H7NO
reactant | dimethylformamide | 6.5 mmole, 20 ml, 0.259 grams | CN(C=O)C | C3H7NO
reactant | 2-Chloro-nicotinic acid ethyl ester | 5.4 mmole, 1.0 grams | C(C)OC(C1=C(N=CC=C1)Cl)=O | C8H8ClNO2
solvent | water | 150 ml | O | H2O
product | 2-(Pyridin-3-ylmethoxy)-nicotinic acid ethyl ester | C(C)OC(C1=C(N=CC=C1)OCC=1C=NC=CC1)=O | C14H14N2O3
